US05760030
[2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][6-[2-(1-piperidinyl)ethoxy]naphth-2-yl]methanone
In a manner similar to that used in Example 2, 1.4 g (2.54 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][6-[2-(1-piperidinyl)ethoxy]naphth-2-yl]methanone, 1.4 g (10.2 mmol) of AlCl3, and 2 mL (12.7 mmol) of EtSH was converted to 570 mg of the title compound as a yellow powder.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][6-[2-(1-piperidinyl)ethoxy]naphth-2-yl]methanone | 2.54 mmol, 1.4 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC1=CC=C(C=C1C=C2)OCCN2CCCCC2 | C34H33NO4S
reactant | AlCl3 | 10.2 mmol, 1.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | EtSH | 12.7 mmol, 2 mL | CCS | C2H6S
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][6-[2-(1-piperidinyl)ethoxy]naphth-2-yl]methanone | 570 mg | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C2=CC1=CC=C(C=C1C=C2)OCCN2CCCCC2 | C32H29NO4S
